US07728150B2
[3-(1-Ethyl-5-fluoro-indan-1-yl)-1H-indol-7-yl]-carbamic acid methyl ester
Dissolve 3-(1-ethyl-5-fluoro-indan-1-yl)-1H-indol-7-ylamine (0.35 g, 1.19 mmol) in pyridine (3 ml). Add methyl chloroformate (0.10 ml, 1.31 mmol, 1.1 equivalents) and stir at room temperature under nitrogen overnight. Dilute with ether, wash with 1N aqueous hydrochloric acid (2×), dry over anhydrous sodium sulfate, filter, and concentrate solution in vacuo. Purify the residue on silica eluting with 0 to 75% ethyl acetate/hexanes over 30 minutes to provide the title compound as a white solid (0.15 g, 36%). LC-MS m/z 353.1 (M++1).

reactant | 3-(1-ethyl-5-fluoro-indan-1-yl)-1H-indol-7-ylamine | 1.19 mmol, 0.35 g | C(C)C1(CCC2=CC(=CC=C12)F)C1=CNC2=C(C=CC=C12)N | C19H19FN2
reactant | methyl chloroformate | 1.31 mmol, 0.10 ml, 1.1 equivalents | ClC(=O)OC | C2H3ClO2
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
solvent | ether | CCOCC | C4H10O
product | [3-(1-Ethyl-5-fluoro-indan-1-yl)-1H-indol-7-yl]-carbamic acid methyl ester | 0.15 g, 36% | COC(NC=1C=CC=C2C(=CNC12)C1(CCC2=CC(=CC=C12)F)CC)=O | C21H21FN2O2
